US05192783
E. 2-(o-phenoxyphenyl)hexyl methane sulfonate:
Into a 500 ml round bottom flask are placed 15.6 g (0.06 mole) of 2-(o-phenoxyphenyl)hexan-1-ol, in 100 ml of benzene and 7.9 g. (0.07 mole) of methane sulfonyl chloride. To this mixture is added 8.2 g (0.08 mole) of triethyl amine dropwise at 10°. The reaction mixture is stirred overnight at room temperature and poured into 150 ml 10% hydrochloric acid. It is then extracted with benzene and the combined benzene extracts are washed with water and dried over Na2SO4. Solvent is evaporated to give 20 g of product.

reactant | 2-(o-phenoxyphenyl)hexan-1-ol | 0.06 mole, 15.6 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)C(CO)CCCC | C18H22O2
reactant | methane sulfonyl chloride | 0.07 mole | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethyl amine | 0.08 mole, 8.2 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-(o-phenoxyphenyl)hexyl methane sulfonate | 20 g | CS(=O)(=O)OCC(CCCC)C1=C(C=CC=C1)OC1=CC=CC=C1 | C19H24O4S
